US07365095B2
Treatment of 2,4-dichloro-2′-fluoro-6′-methoxybiphenyl (5.0 g, 18.4 mmol) with hydrogen bromide (33% in acetic acid, 100 mL) according to the procedure described for Example 69, Step 2 provided 4.2 g (89%) of 2′,4′-dichloro-6-fluorobiphenyl-2-ol as a light brown oil.

reactant | 2,4-dichloro-2′-fluoro-6′-methoxybiphenyl | 18.4 mmol, 5.0 g | ClC1=C(C=CC(=C1)Cl)C1=C(C=CC=C1OC)F | C13H9Cl2FO
solvent | hydrogen bromide | 100 mL | Br | BrH
product | 2′,4′-dichloro-6-fluorobiphenyl-2-ol | 4.2 g, 89% | ClC1=C(C=CC(=C1)Cl)C=1C(=CC=CC1F)O | C12H7Cl2FO
